US09353096B2
(R)-2-(4-chloro-3-fluorophenyl)morpholine (230 mg, 1.07 mmol) was mixed with (S)-2-(trifluoromethyl)oxirane (180 mg, 1.6 mmol) in 1 mL of dichloromethane in a tube. The tube was sealed and stirred at 60° C. overnight. The solution was evaporated to dryness to afford (S)-3-((R)-2-(4-chloro-3-fluorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol as an oil (340 mg), which was used as is in the next step. (M+H)+=328 m/e.

reactant | (R)-2-(4-chloro-3-fluorophenyl)morpholine | 1.07 mmol, 230 mg | ClC1=C(C=C(C=C1)[C@@H]1CNCCO1)F | C10H11ClFNO
reactant | (S)-2-(trifluoromethyl)oxirane | 1.6 mmol, 180 mg | FC([C@H]1OC1)(F)F | C3H3F3O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (S)-3-((R)-2-(4-chloro-3-fluorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol | 340 mg | ClC1=C(C=C(C=C1)[C@H]1OCCN(C1)C[C@@H](C(F)(F)F)O)F | C13H14ClF4NO2
